US07384967B2
Crude (2-amino-5-methyl-phenyl)-cyclobutyl-methanone (80%, oil) was prepared in a similar fashion as described for (2-amino-5-methyl-phenyl)-cyclopropyl-methanone using cyclobutanecarboxylic acid methoxy-methyl-amide instead of cyclopropanecarboxylic acid methoxy-methyl-amide.

reactant | (2-amino-5-methyl-phenyl)-cyclopropyl-methanone | NC1=C(C=C(C=C1)C)C(=O)C1CC1 | C11H13NO
reactant | cyclobutanecarboxylic acid methoxy-methyl-amide | CON(C(=O)C1CCC1)C | C7H13NO2
product | (2-amino-5-methyl-phenyl)-cyclobutyl-methanone | 80% | NC1=C(C=C(C=C1)C)C(=O)C1CCC1 | C12H15NO
